US05686275
A solution of sodium 2-oxo-4-phenyl butanoate (2.0 g, 10 mmol) and sodium formate (0.82 g, 12 mmol) in Tris buffer (5 mM, pH adjusted to 6.0 with 2M HCl; 250 ml) was deoxygenated by bubbling through nitrogen for 30 minutes. NADH (0.35 g, 0.5 mmol), dithiothreitol (25 μl of a 1M aqueous solution), formate dehydrogenase from yeast (Boehringer, 50 mg, 33 U) and S-lactate dehydrogenase from Bacillus stearothermophilus, (Genzyme, 96 mg lyphilised powder≡13 mg protein, 5600 U) were added successively to the solution at room temperature under nitrogen. The mixture was stirred gently under nitrogen at 35°-40° C. for 94 hours, with periodic addition of dilute HCl to maintain pH in the range of 6.0-6.2. After acidification to pH3 and saturation with sodium chloride, the mixture was subjected to normal ethyl acetate (3×200 ml) work-up with a brine wash (200 ml) to leave a white solid (1.7 g, 94% recovery with residual starting material<10%). Recrystallisation from tetrachloromethane gave (S)-2-hydroxy-4-phenyl butanoic acid as an amorphous white solid (1.40 g, 77%) . δ (270 MHz, CDCl3), 7.32-7.17 (5H, m, Ph), 4.27 (1H, dd, J 3.9 and 8.0 Hz, C-2-H), 2.83-2.74 (2H, m, C-4-H2) and 2.25-1.95 (2H, m, C-3-H2). The title compound gave a melting point of 111.5°-114° C. and an [α]D22 value (c=2.02, EtOH) of 8.3°.

reactant | sodium formate | 12 mmol, 0.82 g | C(=O)[O-].[Na+]
reactant | HCl | 2M | Cl | ClH
reactant | NADH | 0.5 mmol, 0.35 g | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | dithiothreitol | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | formate | C(=O)[O-]
reactant | sodium chloride | [Cl-].[Na+]
solvent | Tris | C(C(CO)(CO)N)O | C4H11NO3
solvent | brine | [Cl-].[Na+].O
solvent | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
product | (S)-2-hydroxy-4-phenyl butanoic acid | 1.40 g, 77% | O[C@H](C(=O)O)CCC1=CC=CC=C1 | C10H12O3
